US07173024B2
BOC-2(S)-benzoylpyrrolidine
10 ml (20 mmol) 2 M phenylmagnesium chloride (tetrahydrofuran) and 1.99 g (10 mmol) BOC-L-prolinal were allowed to react at −60–40° C. for 60 min according to procedure F. Yield of the crude product 3.06 g. The product was purified with a silica column using 16% ethyl acetate in petroleum ether as eluent. Yield 2.18 g (7.6 mmol, 76%). The product was oxidized to the corresponding ketone according to procedure G. Yield of crude product 3.15 g. The product was purified with a silica column using 20–25% ethyl acetate in petroleum ether as eluent. Yield 1.65 g (6.0 mmol, 79%).

reactant | phenylmagnesium chloride | 20 mmol, 2 M, 10 ml | C1(=CC=CC=C1)[Mg]Cl
reactant | BOC-L-prolinal | 10 mmol, 1.99 g | C(=O)(OC(C)(C)C)N1[C@H](C=O)CCC1 | C10H17NO3
product | BOC-2(S)-benzoylpyrrolidine | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C(C1=CC=CC=C1)=O | C16H21NO3
